### PR TITLE
[Merged by Bors] - feat(RingTheory/DiscreteValuationRing/Basic): compute the length of the quotient of a DVR

### PR DESCRIPTION
**Pull request by tb65536**
This PR computes the length of the quotient of a DVR by constructing an order isomorphism between the ideals and the order dual of `ENat`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 1]
```diff
@@ -506,6 +507,44 @@ lemma addVal_eq_iff_associated (x y : R) :
   · rintro ⟨u, rfl⟩
     simp_all
 
+variable (R)
+
+/-- The ideals of a discrete valuation ring are exactly the powers of the maximal ideal. -/
+@[simps]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]:
```suggestion
@[simps apply]
```

The `symm_apply` is slightly ugly because it is an `ENat.recTopCoe`. I think here we might need manual lemmas `symm_apply_bot` and `symm_apply_coe`.

I wonder if it would be nice to also have a convenience version of this with `Irreducible.maximal_eq` that gives `idealOrderIsoEnat.symm n = Ideal.span {ϖ ^ n}` directly when provided an explicit uniformizer?

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 2]
```diff
@@ -506,6 +507,44 @@ lemma addVal_eq_iff_associated (x y : R) :
...
+  right_inv n := by
+    let k := n.ofDual
+    change addVal R (generator (k.recTopCoe ⊥ fun n ↦ maximalIdeal R ^ n)) = k
+    induction k
+    case top => simp
+    case coe k =>
+      obtain ⟨ϖ, hϖ⟩ := exists_irreducible R
+      rw [ENat.recTopCoe_coe, hϖ.maximalIdeal_eq, span_singleton_pow,
+        ← hϖ.addVal_pow k, addVal_eq_iff_associated]
+      exact associated_generator_span_self (ϖ ^ k)
```
Comment (robin-carlier) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]:
```suggestion
    obtain ⟨k, rfl⟩ := OrderDual.toDual.surjective n
    dsimp
    induction k with
    | top => simp
    | coe k =>
      obtain ⟨ϖ, hϖ⟩ := exists_irreducible R
      rw [OrderDual.toDual_inj, ENat.recTopCoe_coe, hϖ.maximalIdeal_eq,
        span_singleton_pow, ← hϖ.addVal_pow k, addVal_eq_iff_associated]
      exact associated_generator_span_self (ϖ ^ k)
```
I think using `toDual.surjective` and relying on `dsimp` to do the cleaning up is slightly more idiomatic than forcing a `change` here.

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 3]
```diff
@@ -506,6 +507,44 @@ lemma addVal_eq_iff_associated (x y : R) :
   · rintro ⟨u, rfl⟩
     simp_all
 
+variable (R)
+
+/-- The ideals of a discrete valuation ring are exactly the powers of the maximal ideal. -/
+@[simps]
+noncomputable def idealOrderIsoENat : Ideal R ≃o ENatᵒᵈ where
```
Comment (robin-carlier) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean:516]: Can you add a mention of this declaration to `ideal_eq_span_pow_irreducible` above in the file? Since this is basically a more precise version of it.

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]: Sure, although `symm_apply_bot` probably isn't necessary since it's true for order isomorphisms in general.

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 4]
```diff
@@ -525,18 +527,27 @@ noncomputable def idealOrderIsoENat : Ideal R ≃o ENatᵒᵈ where
...
-        ← hϖ.addVal_pow k, addVal_eq_iff_associated]
+      rw [OrderDual.toDual_inj, ENat.recTopCoe_coe, hϖ.maximalIdeal_eq,
+        span_singleton_pow, ← hϖ.addVal_pow k, addVal_eq_iff_associated]
       exact associated_generator_span_self (ϖ ^ k)
   map_rel_iff' {I J} := by
     simp [addVal_le_iff_dvd, ← span_singleton_le_span_singleton]
 
+@[simp]
+theorem idealOrderIsoENat_symm_apply_coe (n : ℕ) :
+    (idealOrderIsoENat R).symm (.toDual n) = maximalIdeal R ^ n :=
```
Comment (robin-carlier) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]: The linter seems happy with
```suggestion
    (idealOrderIsoENat R).symm n = maximalIdeal R ^ n :=
```

(but the declaration below needs to be adapted as well)

Comment (tb65536) [reply Mathlib/RingTheory/DiscreteValuationRing/Basic.lean]: (Ignore my previous comment, I see what's going on now)

File: Mathlib/RingTheory/DiscreteValuationRing/Basic.lean [hunk 5]
```diff
@@ -506,6 +509,53 @@ lemma addVal_eq_iff_associated (x y : R) :
...
+      exact associated_generator_span_self (ϖ ^ k)
+  map_rel_iff' {I J} := by
+    simp [addVal_le_iff_dvd, ← span_singleton_le_span_singleton]
+
+@[simp]
+theorem idealOrderIsoENat_symm_apply_coe (n : ℕ) :
+    (idealOrderIsoENat R).symm n = maximalIdeal R ^ n :=
+  rfl
+
+theorem idealOrderIsoENat_symm_apply_coe_of_irreducible (n : ℕ) {ϖ : R} (hϖ : Irreducible ϖ) :
```
Comment (robin-carlier) [inline Mathlib/RingTheory/DiscreteValuationRing/Basic.lean:548]:
```suggestion
variable {R} in
theorem idealOrderIsoENat_symm_apply_coe_of_irreducible (n : ℕ) {ϖ : R} (hϖ : Irreducible ϖ) :
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
